US04792628
3 Grams of 4-methyl-6-α-chloroacetylaminomethyl-7-hydroxy-1-indanone and a solution of 30 ml of concentrated sulfuric acid in 60 ml of ethanol were refluxed by heating for 8 hours. The solvent was removed by evaporation, the residue thus obtained was recrystallized from ethanol to obtain 1 g of 4-methyl-6-aminomethyl-7-hydroxy-1-indanone.

reactant | 4-methyl-6-α-chloroacetylaminomethyl-7-hydroxy-1-indanone | CC1=C2CCC(C2=C(C(=C1)CNC(CCl)=O)O)=O | C13H14ClNO3
reactant | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-methyl-6-aminomethyl-7-hydroxy-1-indanone | 1 g | CC1=C2CCC(C2=C(C(=C1)CN)O)=O | C11H13NO2
